US04104367
Preparation of I125 -6-dimethylamino-4-phenyl-4-(4-hydroxyphenyl)heptan-3-one
The procedure of Example 5 is repeated using the methadone derivative 6-methylamino-4-phenyl-4-(4-hydroxyphenyl)heptan-3-one except for the following modifications. Instead of mixing the NaI125 reaction mixture on a Vortex mixer the mixture is shaken gently for 90 seconds and after addition of the bisulfite the mixture is shaken gently for 30 seconds. Finally 2.0 ml of 0.1 M Tris buffer pH 7.0 is used prior to the column chromatography step. The resulting above-captioned labeled antigen is obtained in Fractions #22-27 at a radioactive concentration of 10.5μCi/ml. EXAMPLE 7

reactant | methadone | CCC(=O)C(CC(C)N(C)C)(C=1C=CC=CC1)C=2C=CC=CC2 | C21H27NO
reactant | bisulfite | S([O-])(O)=O
reactant | Tris | 0.1 M, 2.0 ml, pH 7.0 | C(C(CO)(CO)N)O | C4H11NO3
product | 6-dimethylamino-4-phenyl-4-(4-hydroxyphenyl)heptan-3-one | CN(C(CC(C(CC)=O)(C1=CC=C(C=C1)O)C1=CC=CC=C1)C)C | C21H27NO2
